US06903120B2
Methanesulfonic acid 3-(1-butyl-piperidin-4-yl)-phenyl ester
Beginning with 3-(1-butyl-piperidin-4-yl)-phenol and methanesulfonyl chloride. MS m/z (rel. intensity, 70 eV) 311 (M+, 3), 268 (bp), 189 (20), 131 (18), 79 (12);

reactant | 3-(1-butyl-piperidin-4-yl)-phenol | C(CCC)N1CCC(CC1)C=1C=C(C=CC1)O | C15H23NO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-(1-butyl-piperidin-4-yl)-phenyl ester | C(CCC)N1CCC(CC1)C=1C=C(C=CC1)OS(=O)(=O)C | C16H25NO3S
